US05854277
Potassium iodide (0.90 g, 5.4 mmol) and 3-(p-methylphenyl)propan-1-ol (0.4 g, 2.7 mmol) was added to 85% phosphoric acid (5.4 mL) at rt. The solution was heated to 120° C. for 3 h, during which time an oil separated from the acid layer. The mixture was cooled to rt and poured into 150 mL of water and 150 mL of diethyl ether. The organic layer was separated, decolorized with saturated sodium bisulfite solution (100 mL), and washed with saturated sodium chloride solution (100 mL). The organic layer was then dried (MgSO4), filtered, and concentrated in vacuo to afford 3-(4-methylphenyl)-1-iodopropane (0.48 g, 68%).

reactant | Potassium iodide | 5.4 mmol, 0.90 g | [I-].[K+]
reactant | 3-(p-methylphenyl)propan-1-ol | 2.7 mmol, 0.4 g | CC1=CC=C(C=C1)CCCO | C10H14O
reactant | phosphoric acid | 5.4 mL | P(O)(O)(O)=O | H3O4P
product | 3-(4-methylphenyl)-1-iodopropane | 0.48 g, 68% | CC1=CC=C(C=C1)CCCI | C10H13I
